US07544803B2
6-Morpholin-4-yl-naphthalene-2-carboxylic acid quinolin-7-ylamide.
To a solution of 6-bromo-naphthalene-2-carboxylic acid quinolin-7-ylamide, Example 32(b), (40 mg, 0.106 mmol) in dioxane (2 mL) was added tris(dibenzylideneacetone)dipalladium(0) (5 mg, Aldrich), biphenyl-2-yl-di-tert-butyl-phosphane (5 mg, Strem), morpholine (74 mg, 0.85 mmol, Aldrich) and lithium bis(trimethylsilyl)amide (0.53 ml of 1 M solution in THF, 0.53 mmol, Aldrich). The mixture was heated in microwave at 150° C. for 5 min, cooled to room temperature, and partitioned between satd NH4Cl (5 mL) and EtOAc (30 mL). The EtOAc layer was separated, washed with brine, dried over MgSO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (gradient, 5 to 10% (2 M NH3 in MeOH) in CH2Cl2) to provide the title compound as a yellow amorphous solid. MS (ESI, pos. ion) m/z: 384 (M+1).

reactant | 6-bromo-naphthalene-2-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C20H13BrN2O
reactant | biphenyl-2-yl-di-tert-butyl-phosphane | 5 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | morpholine | 0.85 mmol, 74 mg | N1CCOCC1 | C4H9NO
reactant | lithium bis(trimethylsilyl)amide | 0.53 mmol, 1 M, 0.53 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Morpholin-4-yl-naphthalene-2-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC2=CC=C(C=C2C=C1)N1CCOCC1 | C24H21N3O2
